.INCLUDE '32nm_HP.pm'

.PARAM Lmin=32n
.PARAM Wmin=32n
.PARAM Ldiff=64n
.PARAM supply=1.1
.temp 25

Mn1 drain1 gate1 source1 body1 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn2 drain2 gate2 source2 body2 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vd2     drain2  alimd 0
Vg2     gate2   alimg2  0      
Vs2    source2  0 0
Vb2     body2 0  0

Vd1     drain1  source2  0
Vg1     gate1   alimg1   0      
Vs1     source1 0   0
Vb1     body1 0  0

Vgg1 alimg1 0   0
Vgg2 alimg2 0   0
Vdd1 alimd  0   0

.CONTROL

let vol1 = 0
let sup = 1.1

while vol1 le sup

    alter Vgg1 = vol1

    let vol2 = 0
    while vol2 le sup

        alter Vgg2 = vol2
        if (vol1 > 0.5 & vol2 > 0.5)
            alter Vdd1 = 1.1
        else
            alter Vdd1 = 0
        end
        
        op
        print V(gate1) V(gate2) V(drain1) V(alimd) I(Vd2) I(Vg2) I(Vs2) I(Vb2) I(Vd1) I(Vg1) I(Vs1) I(Vb1) 
        print ""
        let vol2 = vol2 + 0.1
    end
    let vol1 = vol1 + 0.1
end
.ENDC
.END